** Name: SymmetricalOpAmp16

.MACRO SymmetricalOpAmp16 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=6e-6 W=14e-6
mDiodeTransistorNmos2 inStageBiasComplementarySecondStage inStageBiasComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=11e-6
mDiodeTransistorNmos3 inputVoltageBiasXXnXX1 inputVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=27e-6
mDiodeTransistorPmos4 inTransconductanceComplementarySecondStage inTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=92e-6
mDiodeTransistorPmos5 outFirstStage outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=92e-6
mDiodeTransistorPmos6 outVoltageBiasXXpXX0 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=5e-6 W=149e-6
mNormalTransistorNmos7 inTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=3e-6 W=58e-6
mNormalTransistorNmos8 out inputVoltageBiasXXnXX1 SecondStageYinnerStageBias SecondStageYinnerStageBias nmos4 L=2e-6 W=347e-6
mNormalTransistorNmos9 outFirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=3e-6 W=58e-6
mNormalTransistorNmos10 outVoltageBiasXXpXX0 ibias sourceNmos sourceNmos nmos4 L=6e-6 W=303e-6
mNormalTransistorNmos11 FirstStageYsourceTransconductance ibias sourceNmos sourceNmos nmos4 L=6e-6 W=517e-6
mNormalTransistorNmos12 SecondStageYinnerStageBias inStageBiasComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=11e-6
mNormalTransistorPmos13 inStageBiasComplementarySecondStage inTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=168e-6
mNormalTransistorPmos14 inputVoltageBiasXXnXX1 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=5e-6 W=449e-6
mNormalTransistorPmos15 out outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=168e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp16

** Expected Performance Values: 
** Gain: 46 dB
** Power consumption: 9.47301 mW
** Area: 9632 (mu_m)^2
** Transit frequency: 31.2851 MHz
** Transit frequency with error factor: 31.2852 MHz
** Slew rate: 66.4754 V/mu_s
** Phase margin: 76.7764°
** CMRR: 94 dB
** negPSRR: 90 dB
** posPSRR: 46 dB
** VoutMax: 4.67001 V
** VoutMin: 0.75 V
** VcmMax: 4.51001 V
** VcmMin: 0.960001 V


** Expected Currents: 
** NormalTransistorNmos: 214.852 muA
** NormalTransistorPmos: -634.751 muA
** DiodeTransistorPmos: -181.18 muA
** DiodeTransistorPmos: -181.18 muA
** NormalTransistorNmos: 362.362 muA
** NormalTransistorNmos: 181.181 muA
** NormalTransistorNmos: 181.181 muA
** NormalTransistorNmos: 336.269 muA
** NormalTransistorNmos: 336.268 muA
** NormalTransistorPmos: -336.268 muA
** DiodeTransistorNmos: 336.269 muA
** NormalTransistorPmos: -336.268 muA
** DiodeTransistorNmos: 634.752 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -214.851 muA


** Expected Voltages: 
** ibias: 0.629001  V
** in1: 2.5  V
** in2: 2.5  V
** inStageBiasComplementarySecondStage: 1.00301  V
** inTransconductanceComplementarySecondStage: 4.10301  V
** inputVoltageBiasXXnXX1: 1.15401  V
** out: 2.5  V
** outFirstStage: 4.10301  V
** outVoltageBiasXXpXX0: 3.80401  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 1.76101  V
** innerStageBias: 0.598001  V


.END