** Name: SymmetricalOpAmp18

.MACRO SymmetricalOpAmp18 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inOutputStageBiasComplementarySecondStage inOutputStageBiasComplementarySecondStage sourceNmos sourceNmos nmos4 L=2e-6 W=42e-6
mDiodeTransistorNmos2 ibias ibias sourceNmos sourceNmos nmos4 L=9e-6 W=37e-6
mDiodeTransistorPmos3 inTransconductanceComplementarySecondStage inTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=133e-6
mDiodeTransistorPmos4 outFirstStage outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=133e-6
mDiodeTransistorPmos5 outVoltageBiasXXpXX0 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=10e-6 W=31e-6
mNormalTransistorNmos6 inTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=1e-6 W=10e-6
mNormalTransistorNmos7 innerComplementarySecondStage inOutputStageBiasComplementarySecondStage StageBiasComplementarySecondStageYinner StageBiasComplementarySecondStageYinner nmos4 L=2e-6 W=229e-6
mNormalTransistorNmos8 out inOutputStageBiasComplementarySecondStage SecondStageYinnerStageBias SecondStageYinnerStageBias nmos4 L=2e-6 W=227e-6
mNormalTransistorNmos9 outFirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=1e-6 W=10e-6
mNormalTransistorNmos10 outVoltageBiasXXpXX0 ibias sourceNmos sourceNmos nmos4 L=9e-6 W=54e-6
mNormalTransistorNmos11 FirstStageYsourceTransconductance ibias sourceNmos sourceNmos nmos4 L=9e-6 W=600e-6
mNormalTransistorNmos12 SecondStageYinnerStageBias innerComplementarySecondStage sourceNmos sourceNmos nmos4 L=2e-6 W=97e-6
mNormalTransistorNmos13 StageBiasComplementarySecondStageYinner innerComplementarySecondStage sourceNmos sourceNmos nmos4 L=2e-6 W=97e-6
mNormalTransistorPmos14 inOutputStageBiasComplementarySecondStage outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=10e-6 W=582e-6
mNormalTransistorPmos15 innerComplementarySecondStage inTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=371e-6
mNormalTransistorPmos16 out outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=371e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp18

** Expected Performance Values: 
** Gain: 47 dB
** Power consumption: 4.56701 mW
** Area: 14761 (mu_m)^2
** Transit frequency: 23.0241 MHz
** Transit frequency with error factor: 23.0244 MHz
** Slew rate: 45.2807 V/mu_s
** Phase margin: 65.8902°
** CMRR: 100 dB
** negPSRR: 95 dB
** posPSRR: 47 dB
** VoutMax: 4.82001 V
** VoutMin: 0.390001 V
** VcmMax: 4.66001 V
** VcmMin: 0.880001 V


** Expected Currents: 
** NormalTransistorNmos: 14.4961 muA
** NormalTransistorPmos: -267.704 muA
** DiodeTransistorPmos: -81.4049 muA
** DiodeTransistorPmos: -81.4049 muA
** NormalTransistorNmos: 162.808 muA
** NormalTransistorNmos: 81.4041 muA
** NormalTransistorNmos: 81.4041 muA
** NormalTransistorNmos: 229.195 muA
** NormalTransistorNmos: 229.194 muA
** NormalTransistorPmos: -229.194 muA
** NormalTransistorNmos: 229.195 muA
** NormalTransistorNmos: 229.194 muA
** NormalTransistorPmos: -229.194 muA
** DiodeTransistorNmos: 267.705 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -14.4969 muA


** Expected Voltages: 
** ibias: 0.574001  V
** in1: 2.5  V
** in2: 2.5  V
** inOutputStageBiasComplementarySecondStage: 0.795001  V
** inTransconductanceComplementarySecondStage: 4.25101  V
** innerComplementarySecondStage: 0.641001  V
** out: 2.5  V
** outFirstStage: 4.25101  V
** outVoltageBiasXXpXX0: 3.92701  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 1.78401  V
** innerStageBias: 0.236001  V
** inner: 0.236001  V


.END