** Name: SymmetricalOpAmp5

.MACRO SymmetricalOpAmp5 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inTransconductanceComplementarySecondStage inTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=128e-6
mDiodeTransistorNmos2 outFirstStage outFirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=128e-6
mDiodeTransistorNmos3 outVoltageBiasXXnXX0 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=2e-6 W=31e-6
mDiodeTransistorPmos4 ibias ibias sourcePmos sourcePmos pmos4 L=1e-6 W=11e-6
mDiodeTransistorPmos5 inOutputStageBiasComplementarySecondStage inOutputStageBiasComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=12e-6
mNormalTransistorNmos6 inOutputStageBiasComplementarySecondStage outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=2e-6 W=89e-6
mNormalTransistorNmos7 innerComplementarySecondStage inTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=178e-6
mNormalTransistorNmos8 out outFirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=178e-6
mNormalTransistorPmos9 inTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=7e-6 W=504e-6
mNormalTransistorPmos10 innerComplementarySecondStage inOutputStageBiasComplementarySecondStage StageBiasComplementarySecondStageYinner StageBiasComplementarySecondStageYinner pmos4 L=1e-6 W=600e-6
mNormalTransistorPmos11 out inOutputStageBiasComplementarySecondStage SecondStageYinnerStageBias SecondStageYinnerStageBias pmos4 L=1e-6 W=600e-6
mNormalTransistorPmos12 outFirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=7e-6 W=504e-6
mNormalTransistorPmos13 outVoltageBiasXXnXX0 ibias sourcePmos sourcePmos pmos4 L=1e-6 W=46e-6
mNormalTransistorPmos14 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=1e-6 W=532e-6
mNormalTransistorPmos15 SecondStageYinnerStageBias innerComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=69e-6
mNormalTransistorPmos16 StageBiasComplementarySecondStageYinner innerComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=69e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp5

** Expected Performance Values: 
** Gain: 46 dB
** Power consumption: 6.77401 mW
** Area: 9847 (mu_m)^2
** Transit frequency: 24.4601 MHz
** Transit frequency with error factor: 24.4597 MHz
** Slew rate: 67.0961 V/mu_s
** Phase margin: 84.7978°
** CMRR: 99 dB
** negPSRR: 46 dB
** posPSRR: 166 dB
** VoutMax: 4.30001 V
** VoutMin: 0.150001 V
** VcmMax: 3.78001 V
** VcmMin: -0.00999999 V


** Expected Currents: 
** NormalTransistorNmos: 121.84 muA
** NormalTransistorPmos: -42.4089 muA
** DiodeTransistorNmos: 245.238 muA
** DiodeTransistorNmos: 245.238 muA
** NormalTransistorPmos: -490.475 muA
** NormalTransistorPmos: -245.237 muA
** NormalTransistorPmos: -245.237 muA
** NormalTransistorNmos: 341.035 muA
** NormalTransistorPmos: -341.034 muA
** NormalTransistorPmos: -341.035 muA
** NormalTransistorPmos: -339.024 muA
** NormalTransistorPmos: -339.025 muA
** NormalTransistorNmos: 339.025 muA
** DiodeTransistorNmos: 42.4081 muA
** DiodeTransistorPmos: -121.839 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.21001  V
** in1: 2.5  V
** in2: 2.5  V
** inOutputStageBiasComplementarySecondStage: 3.68601  V
** inTransconductanceComplementarySecondStage: 0.555001  V
** innerComplementarySecondStage: 3.91001  V
** out: 2.5  V
** outFirstStage: 0.555001  V
** outVoltageBiasXXnXX0: 0.584001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 3.49901  V
** innerStageBias: 4.42801  V
** inner: 4.42701  V


.END