** Name: SymmetricalOpAmp60

.MACRO SymmetricalOpAmp60 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=2e-6 W=9e-6
mDiodeTransistorNmos2 inOutputStageBiasComplementarySecondStage inOutputStageBiasComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=48e-6
mDiodeTransistorPmos3 inTransconductanceComplementarySecondStage inTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=228e-6
mDiodeTransistorPmos4 outFirstStage outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=228e-6
mDiodeTransistorPmos5 outVoltageBiasXXpXX0 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=4e-6 W=51e-6
mNormalTransistorNmos6 inTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=9e-6 W=448e-6
mNormalTransistorNmos7 innerComplementarySecondStage inOutputStageBiasComplementarySecondStage StageBiasComplementarySecondStageYinner StageBiasComplementarySecondStageYinner nmos4 L=1e-6 W=91e-6
mNormalTransistorNmos8 out inOutputStageBiasComplementarySecondStage SecondStageYinnerStageBias SecondStageYinnerStageBias nmos4 L=1e-6 W=91e-6
mNormalTransistorNmos9 outFirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=9e-6 W=448e-6
mNormalTransistorNmos10 outVoltageBiasXXpXX0 ibias sourceNmos sourceNmos nmos4 L=2e-6 W=39e-6
mNormalTransistorNmos11 FirstStageYinnerStageBias ibias sourceNmos sourceNmos nmos4 L=2e-6 W=172e-6
mNormalTransistorNmos12 FirstStageYsourceTransconductance inOutputStageBiasComplementarySecondStage FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=1e-6 W=62e-6
mNormalTransistorNmos13 SecondStageYinnerStageBias innerComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=54e-6
mNormalTransistorNmos14 StageBiasComplementarySecondStageYinner innerComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=54e-6
mNormalTransistorPmos15 inOutputStageBiasComplementarySecondStage outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=4e-6 W=579e-6
mNormalTransistorPmos16 innerComplementarySecondStage inTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=429e-6
mNormalTransistorPmos17 out outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=429e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp60

** Expected Performance Values: 
** Gain: 53 dB
** Power consumption: 5.52201 mW
** Area: 12738 (mu_m)^2
** Transit frequency: 37.4681 MHz
** Transit frequency with error factor: 37.4681 MHz
** Slew rate: 35.883 V/mu_s
** Phase margin: 56.7229°
** CMRR: 108 dB
** negPSRR: 97 dB
** posPSRR: 53 dB
** VoutMax: 4.85001 V
** VoutMin: 0.350001 V
** VcmMax: 4.69001 V
** VcmMin: 1.31001 V


** Expected Currents: 
** NormalTransistorNmos: 43.7571 muA
** NormalTransistorPmos: -498.463 muA
** DiodeTransistorPmos: -94.8099 muA
** DiodeTransistorPmos: -94.8099 muA
** NormalTransistorNmos: 189.618 muA
** NormalTransistorNmos: 189.617 muA
** NormalTransistorNmos: 94.8091 muA
** NormalTransistorNmos: 94.8091 muA
** NormalTransistorNmos: 181.271 muA
** NormalTransistorNmos: 181.27 muA
** NormalTransistorPmos: -181.27 muA
** NormalTransistorNmos: 181.271 muA
** NormalTransistorNmos: 181.27 muA
** NormalTransistorPmos: -181.27 muA
** DiodeTransistorNmos: 498.464 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -43.7579 muA


** Expected Voltages: 
** ibias: 0.567001  V
** in1: 2.5  V
** in2: 2.5  V
** inOutputStageBiasComplementarySecondStage: 0.757001  V
** inTransconductanceComplementarySecondStage: 4.28301  V
** innerComplementarySecondStage: 0.604001  V
** out: 2.5  V
** outFirstStage: 4.28301  V
** outVoltageBiasXXpXX0: 3.99601  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerStageBias: 0.162001  V
** sourceTransconductance: 1.94501  V
** innerStageBias: 0.199001  V
** inner: 0.199001  V


.END