** Name: SymmetricalOpAmp63

.MACRO SymmetricalOpAmp63 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=2e-6 W=9e-6
mDiodeTransistorNmos2 innerComplementarySecondStage innerComplementarySecondStage StageBiasComplementarySecondStageYinner StageBiasComplementarySecondStageYinner nmos4 L=1e-6 W=87e-6
mDiodeTransistorNmos3 inSourceStageBiasComplementarySecondStage inSourceStageBiasComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=87e-6
mDiodeTransistorNmos4 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=10e-6
mDiodeTransistorPmos5 inTransconductanceComplementarySecondStage inTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=2e-6 W=52e-6
mDiodeTransistorPmos6 outFirstStage outFirstStage sourcePmos sourcePmos pmos4 L=2e-6 W=52e-6
mNormalTransistorNmos7 inTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=3e-6 W=414e-6
mNormalTransistorNmos8 out innerComplementarySecondStage inSourceStageBiasComplementarySecondStage inSourceStageBiasComplementarySecondStage nmos4 L=1e-6 W=87e-6
mNormalTransistorNmos9 outFirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=3e-6 W=414e-6
mNormalTransistorNmos10 FirstStageYinnerStageBias outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=529e-6
mNormalTransistorNmos11 FirstStageYsourceTransconductance ibias FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=2e-6 W=239e-6
mNormalTransistorNmos12 StageBiasComplementarySecondStageYinner inSourceStageBiasComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=87e-6
mNormalTransistorPmos13 innerComplementarySecondStage inTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=2e-6 W=59e-6
mNormalTransistorPmos14 out outFirstStage sourcePmos sourcePmos pmos4 L=2e-6 W=59e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp63

** Expected Performance Values: 
** Gain: 53 dB
** Power consumption: 5.64901 mW
** Area: 4850 (mu_m)^2
** Transit frequency: 63.0781 MHz
** Transit frequency with error factor: 63.0785 MHz
** Slew rate: 59.1193 V/mu_s
** Phase margin: 55.004°
** CMRR: 94 dB
** negPSRR: 106 dB
** posPSRR: 53 dB
** VoutMax: 4.25 V
** VoutMin: 0.800001 V
** VcmMax: 4.09001 V
** VcmMin: 1.34001 V


** Expected Currents: 
** DiodeTransistorPmos: -262.839 muA
** DiodeTransistorPmos: -262.839 muA
** NormalTransistorNmos: 525.678 muA
** NormalTransistorNmos: 525.677 muA
** NormalTransistorNmos: 262.84 muA
** NormalTransistorNmos: 262.84 muA
** NormalTransistorNmos: 296.562 muA
** DiodeTransistorNmos: 296.561 muA
** NormalTransistorPmos: -296.561 muA
** DiodeTransistorNmos: 297.559 muA
** NormalTransistorNmos: 297.558 muA
** NormalTransistorPmos: -297.558 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorNmos: 9.99801 muA


** Expected Voltages: 
** ibias: 1.125  V
** in1: 2.5  V
** in2: 2.5  V
** inSourceStageBiasComplementarySecondStage: 0.605001  V
** inTransconductanceComplementarySecondStage: 3.68601  V
** innerComplementarySecondStage: 1.21001  V
** out: 2.5  V
** outFirstStage: 3.68601  V
** outSourceVoltageBiasXXnXX1: 0.558001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerStageBias: 0.491001  V
** sourceTransconductance: 1.94501  V
** inner: 0.603001  V


.END