** Name: SymmetricalOpAmp7

.MACRO SymmetricalOpAmp7 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 outFirstStage outFirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=70e-6
mDiodeTransistorNmos2 inSourceTransconductanceComplementarySecondStage inSourceTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=70e-6
mDiodeTransistorNmos3 inOutputTransconductanceComplementarySecondStage inOutputTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=14e-6
mDiodeTransistorNmos4 inputVoltageBiasXXnXX0 inputVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=1e-6 W=24e-6
mDiodeTransistorPmos5 ibias ibias sourcePmos sourcePmos pmos4 L=2e-6 W=10e-6
mDiodeTransistorPmos6 innerComplementarySecondStage innerComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=394e-6
mDiodeTransistorPmos7 outVoltageBiasXXpXX1 outVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=142e-6
mNormalTransistorNmos8 out inOutputTransconductanceComplementarySecondStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance nmos4 L=1e-6 W=14e-6
mNormalTransistorNmos9 innerComplementarySecondStage inOutputTransconductanceComplementarySecondStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner nmos4 L=1e-6 W=14e-6
mNormalTransistorNmos10 outVoltageBiasXXpXX1 inputVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=1e-6 W=289e-6
mNormalTransistorNmos11 SecondStageYinnerTransconductance outFirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=190e-6
mNormalTransistorNmos12 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=1e-6 W=190e-6
mNormalTransistorPmos13 out outVoltageBiasXXpXX1 SecondStageYinnerStageBias SecondStageYinnerStageBias pmos4 L=1e-6 W=113e-6
mNormalTransistorPmos14 outFirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=4e-6 W=119e-6
mNormalTransistorPmos15 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=4e-6 W=119e-6
mNormalTransistorPmos16 inOutputTransconductanceComplementarySecondStage ibias sourcePmos sourcePmos pmos4 L=2e-6 W=571e-6
mNormalTransistorPmos17 inputVoltageBiasXXnXX0 ibias sourcePmos sourcePmos pmos4 L=2e-6 W=89e-6
mNormalTransistorPmos18 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=2e-6 W=263e-6
mNormalTransistorPmos19 SecondStageYinnerStageBias innerComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=394e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp7

** Expected Performance Values: 
** Gain: 81 dB
** Power consumption: 13.8351 mW
** Area: 4736 (mu_m)^2
** Transit frequency: 23 MHz
** Transit frequency with error factor: 23.0001 MHz
** Slew rate: 72.1903 V/mu_s
** Phase margin: 83.0789°
** CMRR: 135 dB
** negPSRR: 33 dB
** posPSRR: 34 dB
** VoutMax: 4.35001 V
** VoutMin: 0.700001 V
** VcmMax: 3.60001 V
** VcmMin: -0.00999999 V


** Expected Currents: 
** NormalTransistorNmos: 1089.62 muA
** NormalTransistorPmos: -90.6829 muA
** NormalTransistorPmos: -574.95 muA
** DiodeTransistorNmos: 133.987 muA
** DiodeTransistorNmos: 133.987 muA
** NormalTransistorPmos: -267.973 muA
** NormalTransistorPmos: -133.986 muA
** NormalTransistorPmos: -133.986 muA
** NormalTransistorNmos: 361.879 muA
** NormalTransistorNmos: 361.88 muA
** NormalTransistorPmos: -361.878 muA
** NormalTransistorPmos: -361.879 muA
** DiodeTransistorPmos: -361.878 muA
** NormalTransistorNmos: 361.879 muA
** NormalTransistorNmos: 361.88 muA
** DiodeTransistorNmos: 90.6821 muA
** DiodeTransistorNmos: 574.951 muA
** DiodeTransistorPmos: -1089.61 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.10001  V
** in1: 2.5  V
** in2: 2.5  V
** inOutputTransconductanceComplementarySecondStage: 1.10501  V
** inSourceTransconductanceComplementarySecondStage: 0.555001  V
** innerComplementarySecondStage: 4.20901  V
** inputVoltageBiasXXnXX0: 0.616001  V
** out: 2.5  V
** outFirstStage: 0.555001  V
** outVoltageBiasXXpXX1: 3.78401  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 3.56401  V
** innerStageBias: 4.77301  V
** innerTransconductance: 0.150001  V
** inner: 0.150001  V


.END